US09376433B2
To a solution of 3-iodo-isonicotinonitrile (911 mg, 3.96 mmol) in DMF (10 ml) are added bis(triphenylphosphine)-palladium(II)-chloride (139 mg, 0.20 mmol), copper(I) iodide (22.6 mg, 0.12 mmol), triethylamine (1.10 ml, 7.9 mmol) and 1-bromo-4-ethynyl-benzene (716 mg, 3.96 mmol). The mixture is flushed with nitrogen, heated to 80° C. and stirred in a closed reaction vial at this temperature for 18 hours. The reaction mixture is allowed to cool to room temperature and partitioned between dichloromethane and 1 N HCl. The organic phase is dried over sodium sulfate and evaporated. The residue is chromatographed on a silica gel column with cyclohexane/ethyl acetate as eluent to give 3-(4-bromo-phenylethynyl)-isonicotinonitrile as beige solid; HPLC/MS 2.13 min (A), [M+H] 283/285.

reactant | 3-iodo-isonicotinonitrile | 3.96 mmol, 911 mg | IC1=C(C#N)C=CN=C1 | C6H3IN2
reactant | triethylamine | 7.9 mmol, 1.10 ml | C(C)N(CC)CC | C6H15N
reactant | 1-bromo-4-ethynyl-benzene | 3.96 mmol, 716 mg | BrC1=CC=C(C=C1)C#C | C8H5Br
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
catalyst | bis(triphenylphosphine)-palladium(II)-chloride | 0.20 mmol, 139 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper(I) iodide | 0.12 mmol, 22.6 mg | [Cu]I
product | 3-(4-bromo-phenylethynyl)-isonicotinonitrile | BrC1=CC=C(C=C1)C#CC1=C(C#N)C=CN=C1 | C14H7BrN2
